US05639770
In 120 ml of 10% hydrochloric acid-dimethylformamide were dissolved 29 g of 3,4-diethoxybenzonitrile and 23 g of thioacetamide. The solution was heated at 90° C. for 3 hours and further at 130° C. for 5 hours to conduct a reaction. The reaction mixture was subjected to distillation to remove the solvent. The residue was washed twice with 100 ml of diethyl ether, followed by washing with 100 ml of water. The resulting crystals were collected by filtration and dried to obtain 21.7 g of 3,4-diethoxybenzamide.

reactant | 3,4-diethoxybenzonitrile | 29 g | C(C)OC=1C=C(C#N)C=CC1OCC | C11H13NO2
reactant | thioacetamide | 23 g | C(C)(=S)N | C2H5NS
reactant | hydrochloric acid dimethylformamide | 120 ml | Cl.CN(C=O)C
product | 3,4-diethoxybenzamide | 21.7 g | C(C)OC=1C=C(C(=O)N)C=CC1OCC | C11H15NO3
